US07687502B2
6-(1H-Benzimidazol-2-ylsulfanyl)-N-(1-methyl-1H-pyrazol-3-yl)pyrido[3,2-d]pyrimidin-4-yl-amine
The compound of Example 62 was manufactured by the same method as in Example 31, by a similar method thereto or by a combination of such a method with a conventional method using 2-mercapto-1H-benzimidazole, 3-amino-1-methyl-1H-pyrazole and 4,6-dichloro-pyrido[3,2-d]pyrimidine.

reactant | 2-mercapto-1H-benzimidazole | SC1=NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | 3-amino-1-methyl-1H-pyrazole | NC1=NN(C=C1)C | C4H7N3
reactant | 4,6-dichloro-pyrido[3,2-d]pyrimidine | ClC=1C2=C(N=CN1)C=CC(=N2)Cl | C7H3Cl2N3
product | 6-(1H-Benzimidazol-2-ylsulfanyl)-N-(1-methyl-1H-pyrazol-3-yl)pyrido[3,2-d]pyrimidin-4-yl-amine | N1C(=NC2=C1C=CC=C2)SC=2C=CC=1N=CN=C(C1N2)NC2=NN(C=C2)C | C18H14N8S
